US05534341
Vinyl acetate/vinyl chloride copolymer
The remainder of the sodium vinyl sulphonate, vinyl acetate, vinyl chloride and sodium persulphate was then added continuously over a period of 4 hours while maintaining a temperature of 73°-75° C. When the additions had been completed, the reaction contents were taken to 80° C. and held at that temperature for 30 minutes. They were then cooled to below 30° C. and removed to another sealed vessel and potassium hydroxide (25% aq. solution 10 g) and formalin (5.7 g) were added with stirring.

reactant | sodium vinyl sulphonate | C(=C)S(=O)(=O)[O-].[Na+]
reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
reactant | vinyl chloride | C(=C)Cl | C2H3Cl
reactant | sodium persulphate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[Na+].[Na+]
product | Vinyl acetate vinyl chloride | C(C)(=O)OC=C.C(=C)Cl | InChI=1S/C4H6O2.C2H3Cl/c1-3-6-4(2)5;1-2-3/h3H,1H2,2H3;2H,1H2
